US06320050B1
A solution of 3,4-difluorophenylacetic acid (5.00 g, 29.05 mmol) in methanol (73 mL) was slowly treated with concentrated sulfuric acid (4 mL). The resulting reaction mixture was heated under reflux for 65 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove methanol. The resulting residue was slowly diluted with a saturated aqueous sodium bicarbonate solution (300 mL) and then extracted with ethyl acetate (1×300 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford (3,4-difluoro-phenyl)-acetic acid methyl ester (5.38 g, 99%) as a yellow oil which was used without further purification.

reactant | 3,4-difluorophenylacetic acid | 29.05 mmol, 5.00 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 73 mL | CO | CH4O
product | (3,4-difluoro-phenyl)-acetic acid methyl ester | 5.38 g, 99% | COC(CC1=CC(=C(C=C1)F)F)=O | C9H8F2O2
